* MAX31865 RTD-to-Digital Converter SPICE Model
* Maxim Integrated (Analog Devices)
* Easy-to-use resistance-to-digital converter optimized for platinum RTDs
* Model version: 1.0
* Date: 2024
*
* This model represents the MAX31865 RTD-to-digital converter
* Suitable for ngspice and KiCad simulation
*
* Pin Configuration (20-pin SSOP):
* Pin 1: DRDY - Data Ready output (active low, push-pull)
* Pin 2: DVDD - Digital supply voltage (3.0-3.6V)
* Pin 3: VDD - Analog supply voltage (3.0-3.6V)
* Pin 4: BIAS - Bias voltage output (2.0V typical)
* Pin 5: REFIN+ - Positive reference voltage input
* Pin 6: REFIN- - Negative reference voltage input
* Pin 7: ISENSOR - Low side of reference resistor
* Pin 8: FORCE+ - High-side RTD drive
* Pin 9: FORCE2 - 3-wire positive input (connect to FORCE+ for 3-wire)
* Pin 10: RTDIN+ - Positive RTD input
* Pin 11: RTDIN- - Negative RTD input
* Pin 12: FORCE- - Low-side RTD return
* Pin 13: GND2 - Analog ground
* Pin 14: SDI - Serial data input
* Pin 15: SCLK - Serial clock input
* Pin 16: CS - Chip select (active low)
* Pin 17: SDO - Serial data output
* Pin 18: DGND - Digital ground
* Pin 19: GND1 - Analog ground
* Pin 20: N.C. - No connect
*
* Key Features:
* - 15-bit ADC resolution (no missing codes)
* - Ratiometric conversion: RTD resistance / Reference resistance
* - Handles PT100 to PT1000 RTDs (100Ω to 1kΩ at 0°C)
* - Compatible with 2-wire, 3-wire, and 4-wire sensor connections
* - Input protection: ±45V on FORCE+, FORCE2, FORCE-, RTDIN+, RTDIN-
* - Bias voltage: 2.0V ± 3% (up to 5.75mA output)
* - Conversion time: 52ms (60Hz notch) or 62.5ms (50Hz notch)
* - Fault detection: Open RTD, shorted RTD, cable faults
* - Temperature accuracy: 0.5°C max (0.05% of full scale)
* - SPI interface: up to 5MHz clock, modes 1 and 3
*
* Application:
* - Precision temperature measurement with platinum RTDs
* - Industrial process control
* - Medical equipment
* - Laboratory instrumentation

***************************************************************************
* Main Subcircuit: MAX31865
***************************************************************************
.subckt MAX31865
+ DRDY DVDD VDD BIAS
+ REFIN+ REFIN- ISENSOR
+ FORCE+ FORCE2 RTDIN+ RTDIN- FORCE-
+ GND2 SDI SCLK CS SDO DGND GND1 NC

* Internal node naming
.param GND={GND1}

***************************************************************************
* Power Supply Monitoring and Power-On Reset
***************************************************************************
* VDD monitoring (analog supply)
B_VDD_MON N_VDD_OK GND V={IF(V(VDD,GND)>2.0 & V(VDD,GND)<4.0, 1, 0)}
R_VDD_MON N_VDD_OK GND 100k

* DVDD monitoring (digital supply)
B_DVDD_MON N_DVDD_OK GND V={IF(V(DVDD,DGND)>2.0 & V(DVDD,DGND)<4.0, 1, 0)}
R_DVDD_MON N_DVDD_OK GND 100k

* Power-on reset (threshold ~2.27V)
B_POR N_POR GND V={
+ IF(V(VDD,GND)<2.0, 0,
+   IF(V(VDD,GND)>2.27, 1,
+     V(N_POR,GND)
+   )
+ )
+}
R_POR N_POR GND 1MEG
C_POR N_POR GND 1u

* Overall power good signal
B_PWR_GOOD N_PWR_GOOD GND V={IF(V(N_VDD_OK,GND)>0.5 & V(N_DVDD_OK,GND)>0.5 & V(N_POR,GND)>0.5, 1, 0)}
R_PWR_GOOD N_PWR_GOOD GND 100k

***************************************************************************
* Bias Voltage Generator
***************************************************************************
* VBIAS = 2.0V typical (1.95V to 2.06V tolerance)
* Output current: 0.2mA to 5.75mA
* Load regulation: 30mV/mA
* Startup time: 10ms typical

* Bias voltage reference (2.0V with startup delay)
B_VBIAS_REF N_VBIAS_REF GND V={IF(V(N_PWR_GOOD,GND)>0.5, 2.0, 0)}
R_VBIAS_REF N_VBIAS_REF GND 1MEG

* Startup delay (10ms)
C_VBIAS_START N_VBIAS_DELAYED GND 1u
R_VBIAS_START N_VBIAS_REF N_VBIAS_DELAYED 10k

* Bias voltage output with load regulation
B_VBIAS BIAS N_VBIAS_SENSE V={V(N_VBIAS_DELAYED,GND)}
R_VBIAS_SENSE N_VBIAS_SENSE GND 1

* Load regulation: 30mV/mA
* Modeled as output resistance
R_VBIAS_OUT N_VBIAS_SENSE GND 30

* Output current limit (5.75mA max)
B_VBIAS_ILIM BIAS N_VBIAS_LIM I={LIMIT(V(BIAS,GND)/100, -5.75m, 5.75m)}
R_VBIAS_LIM N_VBIAS_LIM GND 100

***************************************************************************
* Input Protection (±45V on RTD and FORCE pins)
***************************************************************************
* Protection on FORCE+, FORCE2, FORCE-, RTDIN+, RTDIN-
* Opens switches when voltage > VDD+100mV or < GND-400mV
* Leakage current: ~350µA during fault

* FORCE+ protection
B_PROT_FP N_PROT_FP GND V={
+ IF(V(FORCE+,GND)>V(VDD,GND)+0.1, 0,
+   IF(V(FORCE+,GND)<-0.4, 0,
+     1
+   )
+ )
+}
R_PROT_FP N_PROT_FP GND 100k

* FORCE2 protection
B_PROT_F2 N_PROT_F2 GND V={
+ IF(V(FORCE2,GND)>V(VDD,GND)+0.1, 0,
+   IF(V(FORCE2,GND)<-0.4, 0,
+     1
+   )
+ )
+}
R_PROT_F2 N_PROT_F2 GND 100k

* RTDIN+ protection
B_PROT_RP N_PROT_RP GND V={
+ IF(V(RTDIN+,GND)>V(VDD,GND)+0.1, 0,
+   IF(V(RTDIN+,GND)<-0.4, 0,
+     1
+   )
+ )
+}
R_PROT_RP N_PROT_RP GND 100k

* RTDIN- protection
B_PROT_RN N_PROT_RN GND V={
+ IF(V(RTDIN-,GND)>V(VDD,GND)+0.1, 0,
+   IF(V(RTDIN-,GND)<-0.4, 0,
+     1
+   )
+ )
+}
R_PROT_RN N_PROT_RN GND 100k

* FORCE- protection
B_PROT_FN N_PROT_FN GND V={
+ IF(V(FORCE-,GND)>V(VDD,GND)+0.1, 0,
+   IF(V(FORCE-,GND)<-0.4, 0,
+     1
+   )
+ )
+}
R_PROT_FN N_PROT_FN GND 100k

* Overall protection fault status
B_OV_UV_FAULT N_OV_UV_FAULT GND V={
+ IF(V(N_PROT_FP,GND)<0.5 | V(N_PROT_F2,GND)<0.5 | V(N_PROT_RP,GND)<0.5 |
+    V(N_PROT_RN,GND)<0.5 | V(N_PROT_FN,GND)<0.5, 1, 0)
+}
R_OV_UV_FAULT N_OV_UV_FAULT GND 100k

***************************************************************************
* Reference Resistor Current Path
***************************************************************************
* Connect REFIN+ to BIAS (external connection)
* Reference resistor between REFIN+ and REFIN-
* ISENSOR connects to REFIN- (for current sensing)

* Internal connection of ISENSOR to REFIN-
R_ISENSOR_REF ISENSOR REFIN- 0.001

***************************************************************************
* 15-Bit Delta-Sigma ADC
***************************************************************************
* Ratiometric measurement: ADC_CODE = 2^15 × (RTDIN+ - RTDIN-) / (REFIN+ - REFIN-)
* Full scale: 0 to 32767 (15 bits, no missing codes)
* Input common-mode range: 0 to VBIAS
* Noise: 150µVRMS over Nyquist bandwidth

* ADC input voltages (protected)
B_ADC_INP N_ADC_INP GND V={IF(V(N_PROT_RP,GND)>0.5, V(RTDIN+,GND), 0)}
B_ADC_INN N_ADC_INN GND V={IF(V(N_PROT_RN,GND)>0.5, V(RTDIN-,GND), 0)}
R_ADC_INP N_ADC_INP GND 1MEG
R_ADC_INN N_ADC_INN GND 1MEG

* ADC reference voltages
B_ADC_REFP N_ADC_REFP GND V={V(REFIN+,GND)}
B_ADC_REFN N_ADC_REFN GND V={V(REFIN-,GND)}
R_ADC_REFP N_ADC_REFP GND 1MEG
R_ADC_REFN N_ADC_REFN GND 1MEG

* Differential input voltage
B_ADC_DIFF N_ADC_DIFF GND V={V(N_ADC_INP,GND) - V(N_ADC_INN,GND)}
R_ADC_DIFF N_ADC_DIFF GND 1MEG

* Differential reference voltage
B_ADC_VREF N_ADC_VREF GND V={V(N_ADC_REFP,GND) - V(N_ADC_REFN,GND)}
R_ADC_VREF N_ADC_VREF GND 1MEG

* Ratiometric ADC code (15-bit unsigned)
* ADC_CODE = 32768 × (VIN / VREF), limited to 0-32767
B_ADC_RAW N_ADC_RAW GND V={
+ LIMIT(32768 * V(N_ADC_DIFF,GND) / MAX(V(N_ADC_VREF,GND), 0.1), 0, 32767)
+}
R_ADC_RAW N_ADC_RAW GND 1MEG

* Add ADC noise (150µVRMS input-referred, simplified as white noise)
* Noise spectral density: ~150µVRMS over Nyquist BW
* For simulation, add small random variation
B_ADC_NOISE N_ADC_NOISE GND V={0.15m * (2*RAND(1)-1)}
R_ADC_NOISE N_ADC_NOISE GND 1MEG

* Final ADC code with noise
B_ADC_CODE N_ADC_CODE GND V={
+ LIMIT(V(N_ADC_RAW,GND) + V(N_ADC_NOISE,GND), 0, 32767)
+}
R_ADC_CODE N_ADC_CODE GND 1MEG

* ADC offset error (-3 to +3 LSB typical)
* Modeled as fixed offset (1 LSB)
B_ADC_OFFSET N_ADC_OFFSET GND V={1}
R_ADC_OFFSET N_ADC_OFFSET GND 1MEG

* Final ADC result
B_ADC_RESULT N_ADC_RESULT GND V={V(N_ADC_CODE,GND) + V(N_ADC_OFFSET,GND)}
R_ADC_RESULT N_ADC_RESULT GND 1MEG

***************************************************************************
* Fault Detection
***************************************************************************
* Fault detection on every conversion:
* - RTD High: ADC result >= High Threshold
* - RTD Low: ADC result <= Low Threshold

* Fault detection on demand (manual trigger):
* - REFIN- > 0.85 × VBIAS (open RTD or high REFIN-)
* - REFIN- < 0.85 × VBIAS with FORCE- open (short to REFIN-)
* - RTDIN- < 0.85 × VBIAS with FORCE- open (short to RTDIN-)

* High threshold fault (using 90% of full scale as example)
B_FAULT_HIGH N_FAULT_HIGH GND V={IF(V(N_ADC_RESULT,GND) >= 29490, 1, 0)}
R_FAULT_HIGH N_FAULT_HIGH GND 100k

* Low threshold fault (using 10% of full scale as example)
B_FAULT_LOW N_FAULT_LOW GND V={IF(V(N_ADC_RESULT,GND) <= 3277, 1, 0)}
R_FAULT_LOW N_FAULT_LOW GND 100k

* REFIN- voltage check (> 0.85 × VBIAS)
B_FAULT_REFIN_HIGH N_FAULT_REFIN_HIGH GND V={
+ IF(V(REFIN-,GND) > 0.85*V(BIAS,GND), 1, 0)
+}
R_FAULT_REFIN_HIGH N_FAULT_REFIN_HIGH GND 100k

* Overall fault status
B_FAULT_STATUS N_FAULT_STATUS GND V={
+ IF(V(N_FAULT_HIGH,GND)>0.5 | V(N_FAULT_LOW,GND)>0.5 |
+    V(N_FAULT_REFIN_HIGH,GND)>0.5 | V(N_OV_UV_FAULT,GND)>0.5, 1, 0)
+}
R_FAULT_STATUS N_FAULT_STATUS GND 100k

***************************************************************************
* Conversion Control and DRDY
***************************************************************************
* Simplified conversion control:
* - Continuous conversion mode: conversions every 52ms (60Hz notch)
* - 1-shot mode: single conversion triggered by SPI command
* - DRDY goes low when new data available

* Conversion timer (52ms for 60Hz notch filter)
* Simplified: use RC time constant for periodic conversions
C_CONV N_CONV_TIMER GND 52m
R_CONV_CHARGE VDD N_CONV_TIMER 1k

* DRDY output (active low when conversion complete)
* DRDY goes high when RTD data register is read
B_DRDY_LOGIC N_DRDY_LOGIC GND V={
+ IF(V(N_PWR_GOOD,GND)<0.5, 1,
+   IF(V(N_CONV_TIMER,GND)>2.5, 0, 1)
+ )
+}
R_DRDY_LOGIC N_DRDY_LOGIC GND 100k

* DRDY output (push-pull)
B_DRDY DRDY GND V={IF(V(N_DRDY_LOGIC,GND)>0.5, V(DVDD,DGND), 0)}
R_DRDY DRDY GND 100

***************************************************************************
* SPI Interface (Simplified)
***************************************************************************
* Simplified SPI interface model
* In a full model, this would include:
* - Register set (configuration, RTD data, fault status, thresholds)
* - State machine for SPI transactions
* - Address decoding and data transfer
*
* For this behavioral model, we simplify:
* - SDO driven to high-Z when CS is high
* - SDO outputs data when CS is low (simplified as DVDD/2)

* CS input detection
B_CS_DET N_CS_ACTIVE GND V={IF(V(CS,DGND)<0.3*V(DVDD,DGND), 1, 0)}
R_CS_DET N_CS_ACTIVE GND 100k

* SDO output control
* When CS active and SCLK toggles, output data
* Simplified: drive to mid-voltage when active
B_SDO_CTRL N_SDO_CTRL GND V={
+ IF(V(N_CS_ACTIVE,GND)>0.5, 0.5*V(DVDD,DGND), 0)
+}
R_SDO_CTRL N_SDO_CTRL GND 1MEG

* SDO output (tri-state)
S_SDO SDO N_SDO_DRIVE N_CS_ACTIVE GND SW_SDO
B_SDO_DRIVE N_SDO_DRIVE DGND V={V(N_SDO_CTRL,GND)}
R_SDO_DRIVE N_SDO_DRIVE DGND 100

* SDO output capacitance
C_SDO SDO DGND 6p

***************************************************************************
* Supply Current Consumption
***************************************************************************
* Analog supply (VDD):
* - Shutdown: 1.5mA typical (3mA max)
* - Active conversion: 2mA typical (3.5mA max)
* - Additional 400µA if RTDIN > REFIN

* Digital supply (DVDD):
* - Minimal current during idle
* - Increases during SPI communication

* VDD current
B_IDD_ANALOG VDD N_IDD_ANALOG I={
+ IF(V(N_PWR_GOOD,GND)<0.5, 1.5m,
+   IF(V(N_CONV_TIMER,GND)>2.5, 2.5m, 2m)
+ ) +
+ IF(V(N_ADC_DIFF,GND) > V(N_ADC_VREF,GND), 400u, 0)
+}
R_IDD_ANALOG N_IDD_ANALOG GND 1

* DVDD current
B_IDD_DIGITAL DVDD N_IDD_DIGITAL I={
+ IF(V(N_CS_ACTIVE,GND)>0.5, 500u, 100u)
+}
R_IDD_DIGITAL N_IDD_DIGITAL DGND 1

***************************************************************************
* Input Leakage Currents
***************************************************************************
* RTD input leakage (on-state): 2nA typical @ 0-70°C, 14nA @ -40 to 100°C
* Modeled as small resistance to ground

R_LEAK_RTDINP RTDIN+ GND 500MEG
R_LEAK_RTDINN RTDIN- GND 500MEG
R_LEAK_FORCEP FORCE+ GND 500MEG
R_LEAK_FORCE2 FORCE2 GND 500MEG
R_LEAK_FORCEN FORCE- GND 500MEG

***************************************************************************
* Ground Connections
***************************************************************************
* Connect GND1, GND2 together (analog ground)
R_GND1_GND2 GND1 GND2 0.001

* Connect DGND separately (digital ground, but reference to same in simulation)
* In real application, keep analog and digital grounds separated at device,
* connected at single point

.ends MAX31865

***************************************************************************
* Device Models
***************************************************************************
* SDO tri-state switch
.model SW_SDO VSWITCH (RON=100 ROFF=10MEG VON=0.7 VOFF=0.3)

***************************************************************************
* Additional Notes for Simulation
***************************************************************************
* 1. This is a behavioral model for system-level simulation
* 2. Key characteristics modeled:
*    - Bias voltage generation (2.0V with load regulation)
*    - 15-bit ratiometric ADC conversion
*    - Input protection (±45V on RTD pins)
*    - Fault detection (high/low threshold, REFIN- check)
*    - DRDY output (conversion ready indicator)
*    - Supply current consumption
*    - Input leakage currents
* 3. Not modeled in detail:
*    - Complete SPI register set and state machine
*    - Detailed digital filtering (sinc filter, 50/60Hz notch)
*    - Temperature-dependent specifications
*    - Rise/fall times and settling behavior
*    - Detailed fault detection cycle timing
* 4. External components required:
*    - Reference resistor (RREF) between REFIN+ and REFIN-
*      * 400Ω for PT100 (100Ω RTD)
*      * 4kΩ for PT1000 (1kΩ RTD)
*    - RTD sensor connected to RTDIN+/RTDIN- and FORCE+/FORCE-
*    - Bypass capacitors:
*      * 0.1µF on VDD to GND1
*      * 0.1µF on DVDD to DGND
*    - Input filter capacitor on RTDIN+/RTDIN-:
*      * 100nF for PT100 (100Ω RTD)
*      * 10nF for PT1000 (1kΩ RTD)
* 5. Wiring configurations:
*    - 4-wire (most accurate): Separate FORCE and SENSE lines
*      * FORCE+ → RTD high side → RTDIN+
*      * FORCE- → RTD low side → RTDIN-
*      * FORCE2 → GND (not used)
*    - 3-wire (compensates cable resistance):
*      * FORCE+ and FORCE2 connected together → RTD high
*      * RTDIN+ → RTD high (separate cable)
*      * FORCE- and RTDIN- → RTD low (single cable)
*    - 2-wire (simplest, least accurate):
*      * FORCE+ and RTDIN+ → RTD high
*      * FORCE- and RTDIN- → RTD low
*      * FORCE2 → GND
* 6. ADC code to resistance calculation:
*    RRTD = (ADC_CODE × RREF) / 32768
*    Where ADC_CODE is the 15-bit result (0-32767)
* 7. Temperature linearization:
*    For PT100 RTD over -100°C to +100°C range:
*    Temperature (°C) ≈ (ADC_CODE/32) - 256
*    For better accuracy, use Callendar-Van Dusen equation
* 8. SPI communication:
*    - Modes 1 and 3 supported (CPOL = 0 or 1, CPHA = 1)
*    - Maximum SCLK frequency: 5MHz
*    - MSB first data transfer
*    - Registers: Configuration, RTD Data (MSB/LSB), Fault Thresholds, Fault Status
***************************************************************************
